US08633207B2
To a 0.3 M solution of 2-(2-bromo-2-(5-fluoropyridin-2-yl)acetamido)benzamide in MeOH is added 25% sodium methoxide/MeOH (2 equiv) and the mixture is heated at 65° C. overnight or until the reaction is substantially complete. The mixture is concentrated under reduced pressure and the residue is purified by chromatography to afford 2-((5-fluoropyridin-2-yl)(methoxy)methyl)quinazolin-4-ol.

reactant | 2-(2-bromo-2-(5-fluoropyridin-2-yl)acetamido)benzamide | BrC(C(=O)NC1=C(C(=O)N)C=CC=C1)C1=NC=C(C=C1)F | C14H11BrFN3O2
reactant | sodium methoxide MeOH | 2 equiv | C[O-].[Na+].CO
solvent | MeOH | CO | CH4O
product | 2-((5-fluoropyridin-2-yl)(methoxy)methyl)quinazolin-4-ol | FC=1C=CC(=NC1)C(C1=NC2=CC=CC=C2C(=N1)O)OC | C15H12FN3O2
